US05047540
A solution of 600 mg (1.07 mM) of 1-hexadecyloxy-3-(3-iodopropylsulfonylamino)-2-methoxypropane in 5 ml of thiazole is stirred at 50° C. for 6 hours. After thiazole is evaporated, the residue is purified by the column chromatography on silica gel with a chloroform-methanol (5:1 to 3:1) mixture as an eluent. The product is recrystallized from ether-dichloromethane to give 450 mg (0.70 mM) of 1-hexadecyloxy-2-methoxy-3-(3-thiazoliopropylsulfonylamino)propane iodide Ia11 in 66% yield.

reactant | 1-hexadecyloxy-3-(3-iodopropylsulfonylamino)-2-methoxypropane | 1.07 mM, 600 mg | C(CCCCCCCCCCCCCCC)OCC(CNS(=O)(=O)CCCI)OC | C23H48INO4S
reactant | thiazole | 5 ml | S1C=NC=C1 | C3H3NS
product | 1-hexadecyloxy-2-methoxy-3-(3-thiazoliopropylsulfonylamino)propane iodide | 0.70 mM, 450 mg, 66% yield | [I-].C(CCCCCCCCCCCCCCC)OCC(CNS(=O)(=O)CCCC=1SC=C[NH+]1)OC | InChI=1S/C26H50N2O4S2.HI/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-32-24-25(31-2)23-28-34(29,30)22-17-18-26-27-19-21-33-26;/h19,21,25,28H,3-18,20,22-24H2,1-2H3;1H
